Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Benzodiazepines
 
Attending: ___.
 
Chief Complaint:
AMS
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ gentleman with DM2, OSA, CHF (EF25%), 
with recent hospitalization ___ for pneumonia/CHF/renal 
failure who presents from rehab due to altered mental status.  
.  
Please see d/c summary from ___ regarding details of recent 
hospitalization. Briefly, he had been found unresponsive at home 
by his wife in the setting of hypoglycemia, required intubation 
and was found to have pneumonia for which he received 8 days of 
Vancomycin/Cefepime/Levofloxacin. His course was also 
complicated by ___ requiring temporary HD, as well as CHF 
exacerbation. Even after extubation, he was noted to be 
intermittently somnolent, especially when he did not use his 
CPAP at night, but he was oriented x3. He was discharged to 
rehab on ___ (four days prior to this presentation).  
.  
On ___ (the day of presentation) he was noted to be confused 
by his wife when she visited him at rehab. He did not recognize 
her and he seemed very sleepy. Denied any fevers/chills, cough, 
dysuria, rash. He was taken to ___ ED due to confusion.  
.  
In the ED, initial VS were: T98.1, HR 81, BP 115/58, RR 14, POx 
100% RA. He had an abrasion to his forehead which he stated was 
from his CPAP machine, but his exam is otherwise unrevealing of 
any kind of trauma. Neuro exam nonfocal. Labs showed WBC 6, Hct 
33 (baseline ~28), Cr 2.9 (was 3.2 upon d/c). UA negative, CXR 
with pulmonary edema. CT head unchanged from prior. He is 
admitted to Medicine for workup of delirium. VS prior to 
transfer were: HR 82, BP 135/59, RR 18, POx 100% 2L NC.  
.  
On the floor, he is sleeping comfortably. When aroused, he 
answers that it is ___ but that he is at home, this is his 
bedroom. No specific complaints except that he feels very 
drowsy. Nods off to sleep during the exam. Does not recall if he 
has been using CPAP at rehab or not.
 
Past Medical History:
CHF  (EF=20%)
OSA  
Depression  
COPD  
GERD  
Hyperlipidemia  
DM  
s/p R BKA  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission exam:
VS - Temp ___, BP 145/83, HR 78, R 20, O2-sat 99% 2L NC  
GENERAL - no acute respiratory distress, sleeping  
HEENT - 3mm superficial abrasion on right forehead, EOMI, 
sclerae anicteric, MMM  
NECK - supple, no JVD  
LUNGS - CTA bilaterally with bibasilar crackles  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - warm; Left BKA, 1+ edema on right ___  
SKIN - no rashes or lesions  
LYMPH - no cervical LAD  
NEURO - somnolent but arousable to loud voice; oriented to date 
but not place; normal muscle bulk and tone; sensation grossly 
intact; cerebellar exam intact 

Discharge exam: Unchanged
 
Pertinent Results:
Labs:
___ 05:50PM BLOOD WBC-6.0 RBC-3.50* Hgb-10.0* Hct-32.6* 
MCV-93 MCH-28.6 MCHC-30.7* RDW-16.3* Plt ___
___ 05:50PM BLOOD Neuts-60.4 ___ Monos-9.2 Eos-7.6* 
Baso-0.6
___ 05:50PM BLOOD ___ PTT-28.3 ___
___ 05:50PM BLOOD Glucose-205* UreaN-53* Creat-2.9* Na-143 
K-4.8 Cl-101 HCO3-31 AnGap-16
___ 05:50PM BLOOD ALT-18 AST-55* AlkPhos-67 TotBili-0.7
___ 05:50PM BLOOD Albumin-3.3* Calcium-9.3 Phos-5.3* Mg-2.0
___ 12:18AM BLOOD Type-ART O2 Flow-2 pO2-60* pCO2-48* 
pH-7.42 calTCO2-32* Base XS-5

Imaging:
-CT head (___) - No acute intracranial process.

-CXR (___) - Diffuse ground-glass pulmonary opacities most 
likely reflecting pulmonary edema. Recommend post-diuresis films 
to exclude underlying pneumonia. 

 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with DM2, OSA, CHF (EF25%), 
with recent hospitalization ___ for pneumonia/CHF/renal 
failure who presents from rehab due to altered mental status.  

#AMS - He appeared sleepy but was arousable to voice.  He was 
A&Ox3 (name, ___ and date).  He had episodes that were 
similar to this during his last admssion, and they occurred 
after he didn't wear CPAP for a night.  When he is compliant 
with CPAP his mental status is much better.  It is imperative 
that he wear his CPAP mask each night when sleeping as his 
mental status is very sensitive to this.  His ABG showed that 
his CO2 level was the same as at discharge, suggesting this is 
not CO2 narcosis.  There was also no evidence of infection to 
cause his AMS.  CT head at admission showed no acute changes.

#OSA - Should wear CPAP at night, as decribed above, he becomes 
very sleepy during the day when he is not compliant with this.

#CHF (EF=25%) - He had crackles in his lungs at admission but 
duiresed 2000cc during the first 12 hours of admission.  He had 
been given IVF at rehab prior to admission which likely caused 
this.  He has been diuresing well on his home dose of Lasix and 
will continue this at discharge.

#T2DM - He was continued on his home dose of insulin and sugars 
remained reasonably well controlled.

#Chronic kidney disease - Creatinine had improved from the time 
of previous discharge.

#COPD - No wheezing on exam and no SOB.  He was continued on his 
home regimen of Spiriva and Advair with PRN nebs.

#Depression - Continued his home Celexa and Cymbalta.

#Code status - FULL CODE

#Transitional issues
-Is is crucial that he wear CPAP at night, otherwise he is more 
confused and somnolent during the day
-Has follow-up scheduled with nephrology after discharge
-His ACEi and spironolactone were held after last admission, 
these should be re-evaluated by his nephrologist as to whether 
they can be restarted
-Monitor for serotonin syndrome given cymbalta/zoloft 
combination
-Should be evaluated for AICD as an outpatient
-Please continue checking weekly Chem-10 while at rehab
 
Medications on Admission:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable  

PO DAILY (Daily).  
2. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
 
6 hours) as needed for fever or pain: Not to exceed 4000mg per  
day.  
3. albuterol sulfate 1.25 mg/3 mL Solution for Nebulization Sig: 
 
One (1) nebulizer Inhalation every ___ hours as needed for  
shortness of breath or wheezing.  
4. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY  
(Daily).  
5. carvedilol 3.125 mg Tablet Sig: Two (2) Tablet PO BID (2  
times a day).  
6. calcium acetate 667 mg Capsule Sig: Two (2) Capsule PO TID  
W/MEALS (3 TIMES A DAY WITH MEALS).  
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO twice  

a day.  
8. duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2)  

Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
9. ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. fluticasone-salmeterol 250-50 mcg/dose Disk with Device Sig: 
 
One (1) Disk with Device Inhalation BID (2 times a day).  
11. gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q12H  
(every 12 hours).  
12. heparin (porcine) 5,000 unit/mL Solution Sig: 5000 (5000)  
units Injection three times a day: Need for ongoing DVT  
prophylaxis to be re-assessed by rehab physicians.  
13. Lantus 100 unit/mL Solution Sig: ___ (25) units  
Subcutaneous twice a day.  
14. insulin lispro 100 unit/mL Solution Sig: sliding scale units 
 
Subcutaneous three times a day: 151-200 = 2 units  
201-250 = 4 units  
251-300 = 6 units  
301-350 = 8 units  
351-400 = 10 units  
>400 = call MD.  
15. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
16. sertraline 50 mg Tablet Sig: Three (3) Tablet PO DAILY  
(Daily).  
17. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO QHS (once a  

day (at bedtime)).  
18. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig:  

One (1) Cap Inhalation DAILY (Daily).  
19. multivitamin Tablet Sig: One (1) Tablet PO once a day.  
20. folic acid 1 mg Tablet Sig: One (1) Tablet PO once a day.  
21. Vitamin D-3 400 unit Capsule Sig: Two (2) Capsule PO once a  

day.  
22. Lasix 80 mg Tablet Sig: One (1) Tablet PO twice a day.  
23. acetazolamide 250 mg Tablet Sig: One (1) Tablet PO twice a  
day.
 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for fever or pain.  
3. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation Q6H (every 6 hours) as 
needed for SOB/wheezing.  
4. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. carvedilol 6.25 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
6. calcium acetate 667 mg Capsule Sig: Two (2) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
9. ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. fluticasone-salmeterol 250-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
11. gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q12H 
(every 12 hours).  
12. heparin (porcine) 5,000 unit/mL Solution Sig: 5000 (5000) 
units Injection TID (3 times a day): Need for ongoing DVT 
prophylaxis to be re-assessed by rehab MD.  
13. insulin glargine 100 unit/mL Solution Sig: ___ (25) 
units Subcutaneous twice a day.  
14. insulin lispro 100 unit/mL Solution Sig: sliding scale units 
Subcutaneous three times a day: 151-200 = 4; 
201-250 = 6; 
251-300 = 8; 
301-350 = 10; 
351-400 = 12; 
>400 = 12 and call MD.  
15. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
16. sertraline 50 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
17. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
18. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
19. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
20. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
21. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
22. furosemide 80 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
23. acetazolamide 250 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Obstructive sleep apnea
Altered mental status
Secondary diagnoses:
Chronic systolic heart failure (EF=25%)
Chronic kidney disease
Type 2 diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your admission to 
___.  You were admitted because you were confused and sleepy 
at your rehab facility.  This was known to happen when you 
didn't wear your CPAP during your last admission.  On days when 
you wore the CPAP mask overnight, you were very awake and 
oriented during the day.  Please continue to wear CPAP at night 
after leaving the hospital.

No changes were made to your medications
 
Followup Instructions:
___